US04721523
3.88 g (0.4 mole) of diallylamine are added dropwise to 5.35 g (0.02 mole) of 97% pure N-neopentyl-N-2-propinyloxycarbonyloxamic acid chloride in 50 ml of toluene. During this addition, the internal temperature is kept at 20° C. by external cooling with ice. When the dropwise addition has ended, 30 ml of water are added, the organic phase is separated off and the latter is washed twice with water, dried over sodium sulphate and finally concentrated in vacuo. 5.5 g (86% of theory) of N,N-diallyl-N'-neopentyl-N'-2-propinyloxycarbonyl-oxalic acid diamide of refractive index nD20 =1.4878 are obtained.

reactant | diallylamine | 0.4 mole, 3.88 g | C(C=C)NCC=C | C6H11N
reactant | N-neopentyl-N-2-propinyloxycarbonyloxamic acid chloride | 0.02 mole, 5.35 g | C(C(C)(C)C)N(C(C(=O)Cl)=O)C(=O)OCC#C | C11H14ClNO4
reactant | water | 30 ml | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-diallyl-N'-neopentyl-N'-2-propinyloxycarbonyl-oxalic acid diamide | 5.5 g, 86% | C(C=C)N(C(C(=O)N(C(=O)OCC#C)CC(C)(C)C)=O)CC=C | C17H24N2O4
